**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Gate-Drive-Transformer
* Matchcode:              WE-GDT
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Roberta   
* Date and Time:          2022-07-14
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
*nominal
.SUBCKT 760301103 1 2 3 4 5 6
L1 2 N001 475u Rser=0.52
L2 4 3 76u Rser=0.11
L4 1 N001 2.3u
C1 3 N001 3.5p
L3 6 5 76u Rser=0.09
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS 760301103

*nominal
.SUBCKT 760301104 1 2 3 4 5 6
L1 2 N001 470u Rser=0.46
L2 4 3 117.5u Rser=0.17
L4 1 N001 1.9u
C1 3 N001 3.5p
L3 6 5 117.5u Rser=0.17
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS 760301104

*nominal
.SUBCKT 760301105 1 2 3 4 5 6
L1 2 N001 370u Rser=0.45
L2 4 3 370u Rser=0.45
L4 1 N001 1.1u
C1 3 N001 4.5p
L3 6 5 370u Rser=0.45
C2 6 2 4.5p
k1 L1 L2 L3 1
.ENDS 760301105

*nominal
.SUBCKT 760301106 1 2 3 4
L1 2 N001 510u Rser=0.38
L2 4 3 510u Rser=0.47
L3 1 N001 1.4u
C1 3 N001 10p
k1 L1 L2 1
.ENDS 760301106

*nominal
.SUBCKT 760301107 1 2 3 4
L1 2 N001 950u Rser=0.92
L2 4 3 422u Rser=0.4
L3 1 N001 2.5u
C1 3 N001 9p
k1 L1 L2 1
.ENDS 760301107

*nominal
.SUBCKT 760301108 1 2 3 4
L1 2 N001 700u Rser=0.55
L2 4 3 112u Rser=0.1
L3 1 N001 1.8u
C1 3 N001 9p
k1 L1 L2 1
.ENDS 760301108

.subckt	750316094		5  7  6  8  1  3  2  4		
.param RxLkg=259.24ohm					
.param Leakage=0.15uh					
Rlkg	5	5a	{RxLkg/2}		
L_Lkg	5	5a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	6	6a	{RxLkg/2}		
L_Lkg2	6	6a	{Leakage/2}	Rser=0.01mohm	
Lpri1	5a	7	92.925uH	Rser=74mohm	
Lpri2	6a	8	92.925uH	Rser=74mohm	
Lsec1	1	3	2325uH	Rser=585mohm	
Lsec2	2	4	2325uH	Rser=665mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=4.5pf					
.param Cprm2=4.5pf					
.param Rdmp1=160727.52ohm					
.param Rdmp2=160727.52ohm					
Cpri1	5	7	{Cprm1}	Rser=10mohm	
Cpri2	6	8	{Cprm2}	Rser=10mohm	
Rdmp1	5	7	{Rdmp1}		
Rdmp2	6	8	{Rdmp2}		
Rg3	5	0	20meg		
Rg4	6	0	20meg		
Rg7	7	0	20meg		
Rg8	8	0	20meg		
Rg11	1	0	20meg		
Rg12	2	0	20meg		
Rg19	3	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316093		5  7  6  8  1  3  2  4		
.param RxLkg=127.58ohm					
.param Leakage=0.5uh					
Rlkg	5	5a	{RxLkg/2}		
L_Lkg	5	5a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	6	6a	{RxLkg/2}		
L_Lkg2	6	6a	{Leakage/2}	Rser=0.01mohm	
Lpri1	5a	7	599.75uH	Rser=324.5mohm	
Lpri2	6a	8	599.75uH	Rser=324.5mohm	
Lsec1	1	3	2400uH	Rser=594mohm	
Lsec2	2	4	2400uH	Rser=677mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=32pf					
.param Cprm2=32pf					
.param Rdmp1=153092.32ohm					
.param Rdmp2=153092.32ohm					
Cpri1	5	7	{Cprm1}	Rser=10mohm	
Cpri2	6	8	{Cprm2}	Rser=10mohm	
Rdmp1	5	7	{Rdmp1}		
Rdmp2	6	8	{Rdmp2}		
Rg3	5	0	20meg		
Rg4	6	0	20meg		
Rg7	7	0	20meg		
Rg8	8	0	20meg		
Rg11	1	0	20meg		
Rg12	2	0	20meg		
Rg19	3	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750311063		1  4  5  8		
.param RxLkg=445.56ohm					
.param Leakage=0.9uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	4	849.1uH	Rser=213mohm	
Lsec1	5	8	850uH	Rser=250mohm	
K Lpri1    Lsec1        1					
.param Cprm1=12pf					
.param Rdmp1=420810.37ohm					
Cpri1	1	4	{Cprm1}	Rser=10mohm	
Rdmp1	1	4	{Rdmp1}		
Rg3	1	0	20meg		
Rg7	4	0	20meg		
Rg11	5	0	20meg		
Rg19	8	0	20meg		
.ends					